US06426357B1
Preparation of [3-(2-Carbamoyl-ethyl)-4-oxo-2-(5-phenylethynyl-thiophen-2-yl)-thiazolidin-5-yl]-acetic acid.
A mixture of β-alanine amide hydrochloride (3.11 g, 25 mmol), 5-(phenylethynyl)thiophene-2-carboxaldehyde (5.31 g, 25 mmol), mercaptosuccinic acid (11.26 g, 75 mmol) and diisopropylethylamine (3.6 g, 27.5 mmol) was stirred in acetonitrile (300 mL) at reflux for forty eight hours. The solvent was evaporated and the residue was shaken with 2 N HCl (500 mL) and ethyl acetate (3×200 mL) The ethyl acetate solution was washed with water then brine and dried (MgSO4) and evaporated. The product was purified on a 600 mL. silica dry column by elution with dichloromethane:acetic acid (99:1) followed by dichloromethane:methanol:acetic acid (95:5:1). The appropriate fractions were evaporated. The residue was washed with ether and dried to provide the title compound as a white solid: (2.44 g, 23.5%): m.p. 175-178. 1H-NMR (DMSO-d6) δ 12.6 (broad, 1H), 7.56-7.57 (d, 1H, J=2.4 Hz), 7.54-7.55 (d, 1H, J=3.6 Hz), 7.4-7.46 (m, 4H), 7.28-7.32 (m, 2H), 6.90(s, 1H), 6.15 (s, 0.5 H), 6.12-6.13 (d, 0.5H, J=1.6 Hz), 4.24-4.28 (m, 1H), 4.15-4.19 (dd, 0.5H, J=3.6 Hz), 2.97-3.09 (m, 1H), 2.64-2.74 (m, 1H), 2.36-2.46 (m, 1H), 2.08-2.21 (m, 1H); MS(ESI) 413[M-H], 415[M+H]. Analytical HPLC; Capcell Pak C18, 30% acetonitrile: 70% 0.1% aqueous TFA.51 trans: 49 cis. FTIR (ATR) 1650, 1720 cm−1. Anal. (C20H18N2O4S2) calc. C, 57.95; H, 4.38; N, 6.76. obs. C, 57.59; H, 4.34; N, 6.56.

reactant | β-alanine amide hydrochloride | 25 mmol, 3.11 g | Cl.NCCC(=O)N
reactant | 5-(phenylethynyl)thiophene-2-carboxaldehyde | 25 mmol, 5.31 g | C1(=CC=CC=C1)C#CC1=CC=C(S1)C=O | C13H8OS
reactant | mercaptosuccinic acid | 75 mmol, 11.26 g | SC(C(=O)O)CC(=O)O | C4H6O4S
reactant | diisopropylethylamine | 27.5 mmol, 3.6 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | [3-(2-Carbamoyl-ethyl)-4-oxo-2-(5-phenylethynyl-thiophen-2-yl)-thiazolidin-5-yl]-acetic acid | C(N)(=O)CCN1C(SC(C1=O)CC(=O)O)C=1SC(=CC1)C#CC1=CC=CC=C1 | C20H18N2O4S2
